Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[C:3]1[C:4]([H:8])([H:9])[N:5]1[H:10].[O:1]=[C:2]([H:6])[H:7],68.2419413688407
[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[N:3]1[H:12].[C:4](=[O:5])=[C:6]([H:13])[H:14].[H:9][H:15]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],28.264331007603417
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:6]([C:5]([C@@:4]1([H:14])[C+:2]([H:11])[C:3]1([H:12])[H:13])([H:15])[H:16])=[C-:7][H:17])([H:8])([H:9])[H:10],99.8103404883394
[O:1]([C:2](/[C:3]([O:4][H:12])=[C:5](/[O:6][H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],45.22845611394659
[C:1]([C:2](/[C:3](=[N:4]\[O:5][H:12])[C:6]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:5][H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3](#[N:4])[C:6]([H:13])([H:14])[H:15],85.12580969464241
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[N:3](=[C:4](\[C:5]#[N:6])[H:10])\[H:8].[O:1]=[C:2]([H:7])[H:9],82.59098619807071
[C-:1]([N+:2](=[C:3]([O:4][H:10])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],0.40094898767860343
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([N:5]([C:6](=[O:7])[H:18])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:6](=[O:7])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[C:3](\[C:4]([H:14])([H:15])[H:16])(=[N:5]\[H:17])[H:13],86.36569602099571
[C:1]([C:2](=[C:4]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[C:5](=[O:6])=[N:7][H:16].[O:3]([H:12])[H:15]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],28.5107859824584
[N:1]#[C:2][C+:3]=[C:4]([O-:5])[H:8].[N:6]#[N:7]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],1.3013746176574976
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[C:6](#[C:7][H:10])[H:9].[N+:1](#[C:2][H:8])[O-:5].[N:3]#[N:4],135.15401115882798
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([N+:5]1([H:13])[C:3](=[C:6]([O-:7])[H:14])[C:4]1([H:11])[H:12])([H:9])[H:10])[H:8],80.704259294146
[C:1]([N:2]([C:3]([O-:4])=[C:5]=[O+:6][H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],26.243156523168608
[C:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[O:3])([H:8])[H:9].[C:4](=[C:5]=[O:6])([H:10])[H:11].[H:7][H:12],73.4574786588931
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:2]([O+:3]=[C:4]([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:10])[H:11].[C:1]([H:7])([H:8])([H:9])[H:12],78.6458940327563
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@@:2]2([H:11])[C:3]([H:12])([H:13])[C@@:4]2([H:14])[C:5]([H:15])([H:16])[C:6][C:7]1([H:9])[H:17],65.7111668482664
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]1=[C:2]=[C:3]1[C:4](=[O:5])[H:8].[N:6]#[N:7],82.6222213503744
[C:1]([C:2]1=[C:4]([O:5][H:13])[C:3]1([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:15]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10],35.969218102602
[C:1](/[C:2](=[C:3](/[C:4]([H:13])([H:14])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:17].[O:5]=[C:6]([H:16])[H:18]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],30.436044728914887
[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](/[C:4](=[C:5](\[O:6][H:16])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:14],91.247024657125
[C:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2]([O:3][H:11])=[C:4](/[C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],65.674232498188
[C:1]([C:2]([C:4](=[C:3]([H:10])[H:11])[H:12])=[C:5]=[C:6]([H:13])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],96.1018745924872
[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:3][C:2]([O:7]/[C:6](=[C:4](/[C:5]([H:14])([H:15])[H:16])[H:13])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10],88.87005016466499
[C-:5]#[O+:6].[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([H:14])[H:15])([H:7])([H:8])[H:9].[H:13][H:16]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9],33.9342608642952
